US07335629B2
Preparation of ((6-chloromethyl-2-pyridyl)methyl)bis(2-pyridylmethyl)amine (Cl-me1tpa)
In a 250 ml three-necked flask 1 equivalent of bis(2-pyridylmethyl)amine was dissolved in 100 ml of THF and the solution was admixed with 1 equivalent of 2,6-bis(chloromethyl)pyridine and 4 equivalents of N,N-diisopropylethylamide. The solution was stirred at room temperature for 7 days. The solution was filtered and the filtrate was purified by column chromatography.

reactant | bis(2-pyridylmethyl)amine | 1 equivalent | N1=C(C=CC=C1)CNCC1=NC=CC=C1 | C12H13N3
reactant | 2,6-bis(chloromethyl)pyridine | 1 equivalent | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ((6-chloromethyl-2-pyridyl)methyl)bis(2-pyridylmethyl)amine | ClCC1=CC=CC(=N1)CN(CC1=NC=CC=C1)CC1=NC=CC=C1 | C19H19ClN4
